US07691879B2
1-[(1,4-dioxan-2-ylmethyl)amino]-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile
Following the procedure for 4-(3-fluorophenyl)-1-[(2-hydroxyethyl)amino]-6-methoxyisoquinoline-3-carbonitrile, using 1,4-dioxan-2-ylmethylamine in place of 2-aminoethanol, the title compound was synthesized.

reactant | 4-(3-fluorophenyl)-1-[(2-hydroxyethyl)amino]-6-methoxyisoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)NCCO)C#N | C19H16FN3O2
reactant | 1,4-dioxan-2-ylmethylamine | O1C(COCC1)CN | C5H11NO2
product | 1-[(1,4-dioxan-2-ylmethyl)amino]-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | O1C(COCC1)CNC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C22H20FN3O3
